US04678781
The starting material was prepared by reaction of 1-ethyl-2-methyl-4-quinolone with toluene-p-sulphonyl chloride to give 4-chloro-1-ethyl-2-methylquinolinium toluene-p-sulphonate.

reactant | 1-ethyl-2-methyl-4-quinolone | C(C)N1C(=CC(C2=CC=CC=C12)=O)C | C12H13NO
reactant | toluene-p-sulphonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 4-chloro-1-ethyl-2-methylquinolinium toluene-p-sulphonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.ClC1=CC(=[N+](C2=CC=CC=C12)CC)C | InChI=1S/C12H13ClN.C7H8O3S/c1-3-14-9(2)8-11(13)10-6-4-5-7-12(10)14;1-6-2-4-7(5-3-6)11(8,9)10/h4-8H,3H2,1-2H3;2-5H,1H3,(H,8,9,10)/q+1;/p-1
